US05627006
(1) Synthesis of 1,5-diphenyl-3-pentanone
A solution of 1,5-diphenyl-1,4-pentadien-3-one (50.9 g, 0.217 mole) in dry tetrahydrofuran (350 ml) was hydrogenated over 5% palladium on carbon (5.6 g) at room temperature under an atmosphere of hydrogen. After reduction, catalyst was filtered off, the filtrate was concentrated and the residue was distilled under reduced pressure to give 25.5 g of the title compound as a pale yellow oil having a boiling point of 160°-162° C./0.4 mmHg.

reactant | 1,5-diphenyl-1,4-pentadien-3-one | 0.217 mole, 50.9 g | C1(=CC=CC=C1)C=CC(C=CC1=CC=CC=C1)=O | C17H14O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 5.6 g | [Pd] | Pd
product | 1,5-diphenyl-3-pentanone | 25.5 g | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)=O | C17H18O
